US06962914B2
d) 5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde.
Phosphorous oxychloride (0.6 mL, 6.4 mmol) was added to N,N-dimethylformamide (10 mL) and the resulting mixture stirred at room temperature for 10 minutes. 5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine (1.0 g, 4.1 mmol) was added and the reaction mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into ice-water and neutralized to pH 7 with aqueous ammonium hydroxide. The resulting slurry was extracted with dichloromethane. The combined organics were washed with brine, dried (magnesium sulfate), filtered and concentrated to give, after recrystallization from acetonitrile, 5-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (0.95 g, 85%) as a white solid. 1H NMR (CDCl3): δ 10.07 (s, 1H), 8.49 (d, 1H), 8.44 (d, 1H), 7.78 (q, 2H), 7.22 (t, 2H), 7.07 (dd, 1H). MS m/z 275 (M+1).

reactant | Phosphorous oxychloride | 6.4 mmol, 0.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine | 4.1 mmol, 1.0 g | ClC1=CC=2N(C=C1)N=C(C2)C2=CC=C(C=C2)F | C13H8ClFN2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-Chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | ClC1=CC=2N(C=C1)N=C(C2C=O)C2=CC=C(C=C2)F | C14H8ClFN2O
